US07678801B2
12a) N-{3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-4-fluoro-3-methylbenzamide
The title compound was prepared as described in Example 7b from 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one and 4-fluoro-3-methylbenzoyl chloride: LC-MS m/z 547(M+H)+, 2.70 min (ret time).

reactant | 4-(5-amino-2-methylphenyl)-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | NC=1C=CC(=C(C1)C=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C | C21H16F2N4OS
reactant | 4-fluoro-3-methylbenzoyl chloride | FC1=C(C=C(C(=O)Cl)C=C1)C | C8H6ClFO
product | N-{3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-4-fluoro-3-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(C2=CC(=C(C=C2)F)C)=O)SC)=O | C29H21F3N4O2S
